US07566712B2
Dissolve 2,3-dichloropyridine (8.5 g, 0.057 moles) and (R)-(−)-2-methylpiperazine (5.75 g, 0.057 moles) in DMA(125.0 mL) under nitrogen atmosphere. Add anhydrous powdered K2CO3 (23.75 g, 0.172 moles) to this mixture and stir at 135-140° C. for 48 hours. Cool the reaction mixture to room temperature, dilute with water (400 mL), extract with EtOAc (3×200 mL) and wash the combined organic extract with brine (2×150 mL). Dry over MgSO4, concentrate under vacuum to afford crude product as orange yellow liquid. Distil the crude under high vacuum to afford pyridylpiperazine derivative as yellow viscous oil.

reactant | 2,3-dichloropyridine | 0.057 moles, 8.5 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | (R)-(−)-2-methylpiperazine | 0.057 moles, 5.75 g | C[C@H]1NCCNC1 | C5H12N2
reactant | K2CO3 | 0.172 moles, 23.75 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMA | 125.0 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 400 mL | O | H2O
product | pyridylpiperazine | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
